US09056874B2
(±)-2-((4-(1-(5-Cyano-1H-benzo[d]imidazol-2-yl)-1-hydroxyethyl)-7-methyl-1H-indol-5-yl)oxy)acetic acid
A mixture of (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-hydroxyethyl)-5-(2-methoxy-2-oxoethoxy)-7-methyl-1H-indole-1-carboxylate and (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-hydroxyethyl)-5-(2-methoxy-2-oxoethoxy)-7-methyl-1H-indole-1-carboxylate was fully deprotected using the same procedure as described in Example 24-B to give the title compound. 1H NMR (TFA salt, 400 MHz, MeOH-d4) δ ppm 8.06 (s, 1H) 7.79 (s, 2H) 7.31 (d, J=3.28 Hz, 1H) 6.92 (d, J=3.28 Hz, 1H) 6.70 (s, 1H) 4.49 (m, 2H) 2.50 (s, 3H) 2.30 (s, 3H). HRMS calcd. for C21H18N4O4 (M+H)+ 391.1401. found 391.1394.

reactant | (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-hydroxyethyl)-5-(2-methoxy-2-oxoethoxy)-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(N(C(=N2)C(C)(O)C2=C3C=CN(C3=C(C=C2OCC(=O)OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1 | C33H42N4O7Si
reactant | (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-hydroxyethyl)-5-(2-methoxy-2-oxoethoxy)-7-methyl-1H-indole-1-carboxylate | C(#N)C=1C=CC2=C(N(C(=N2)C(C)(O)C2=C3C=CN(C3=C(C=C2OCC(=O)OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C1 | C33H42N4O7Si
product | (±)-2-((4-(1-(5-Cyano-1H-benzo[d]imidazol-2-yl)-1-hydroxyethyl)-7-methyl-1H-indol-5-yl)oxy)acetic acid | C(#N)C1=CC2=C(NC(=N2)C(C)(O)C2=C3C=CNC3=C(C=C2OCC(=O)O)C)C=C1 | C21H18N4O4
